US04191711
A solution of 4.6 g (34 mmol) of aluminum chloride and 4.6 g (34 mmol) of disulphur dichloride in 344 g (2.55 mol) of sulphuryl chloride was added dropwise to a mixture of 57.5 g (250 mmol) of p-chlorobenzotrichloride and 115 g (850 mmol) of sulphuryl chloride at 40° C. The reaction mixture was further processed in the manner described in Example 5, that is to say that, after the working up, unreacted p-chlorobenzotrichloride and 3,4-dichlorobenzotrichloride were separated off by distillation and fed to renewed chlorination with sulphuryl chloride under the conditions given here. By distillation of the combined sump fractions, 2,4,5-trichlorobenzotrichloride was obtained in a yield of 47% of theory.

reactant | aluminum chloride | 34 mmol, 4.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | disulphur dichloride | 34 mmol, 4.6 g | S(SCl)Cl | Cl2S2
reactant | sulphuryl chloride | 2.55 mol, 344 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | p-chlorobenzotrichloride | 250 mmol, 57.5 g | ClC1=CC=C(C=C1)C(Cl)(Cl)Cl | C7H4Cl4
reactant | sulphuryl chloride | 850 mmol, 115 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 3,4-dichlorobenzotrichloride | ClC=1C=C(C=CC1Cl)C(Cl)(Cl)Cl | C7H3Cl5
product | 2,4,5-trichlorobenzotrichloride | yield of 47% | ClC1=C(C=C(C(=C1)Cl)Cl)C(Cl)(Cl)Cl | C7H2Cl6
